Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Weakness, AMS
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
PCP:
Name: ___ MD 
Location: ___ - ADULT 
MEDICINE 
Address: ___ 
Phone: ___ 
Fax: ___ 

HOSPITALIST ADMISSION NOTE

___ yo M with CAD/multiple stents, DM2 with CKD/nephropathy, HTN, 
dementia, ischemic stroke in territory of left anterior 
choroidal artery in the setting of left carotid stenosis in 
___, who presents from home with ___ days increased weakness, 
lethargy, and fever.  History is taken from his wife ___ as he 
cannot give an accurate history.  She states over the last ___ 
days he has been weak and lethargic and not himself.  At 
baseline he is minimally talkative, smokes, and can ambulate 
around the house.  Last night the patient was complaining of 
some left side pain.  He was observed to "slide" off the bed and 
could not get up.  He did not hit his ___ or lose 
consciousness.  Per the wife, he did not report fever, chill, 
CP, SOB, cough, n/v/d, leg pain. 

EMS was called and found the patient to be disheveled and house 
is disarray.  In the ED, HR >100.  Found to be in ARF with UTI. 
Given CTX.  CT ___ and neck negative.  Hospitalized for further 
care.

On the floor, patient is non-verbal, unable to assess pain

10 point review of systems reviewed otherwise negative except as 
listed above
 
Past Medical History:
-Diverticulosis on colonoscopy ___, remote rectal bleeding. 
Most recent colonoscopy was ___ notable for sigmoid 
diverticulosis. 
-CAD s/p multiple stents: abnl ett ___ mild reversible defect 
inf, ___ stent, RCA ___ stent, LCx DES ___. Distal RCA 
stent ___. Mid and Distal RCA stent ___.  Most recent 
cath ___, unstable angina ___ s/p angioplasty to stents
-Type II DM on metformin,
-Hyperlipidemia
-Cognitive/memory impairment: PCP notes suggest some concern for 
recent loss of memory d/t depression, nocturia per PCP notes 
-___ chest wall pain, thought to be neuralgia for which he 
takes gabapentin
-Erectile Dysfunction
-Urinary incontinence, developed after prostatectomy in ___
-Prostate Cancer s/p prostatectomy ___
-Bell's palsy, ___
- Left shoulder pain
Ischemic stroke in Left choroidal artery teritorry from carotid 
stenosis
 
Social History:
___
Family History:
Per record

There is no history of seizures, developmental disability,
learning disorders, migraine headaches, strokes less than 50,
neuromuscular disorders, or movement disorders.
 
Physical Exam:
VS: T 101, HR 110, BP 139/100, RR 20, 95%RA
GEN: discheveled in moderate distress, shaky
HEENT: MM dry, unable to assess OP, anicteric sclera
NECK: supple
HEART: Tachy, regular no MRG
LUNG: Does not participate with exam, clear anteriorly no wheeze
ABD: soft NT/ND +BS no rebound or guarding
EXT: warm well perfused, ecchymoses noted
SKIN: no rash
NEURO: Does not speak or cooperative with exam

Discharge Exam:
VS: 97.8, 102 ___, 16, 99%RA
HEENT: PERRL, EOMI
Neck: No JVD
Lungs: LCTA-bl, no w/r/r
Heart: RRR, no MRG
Abd: Soft, NTND
Ext: No c/e/e
Neuro: AAOx2, no focal deficits on strength testing; CNII-XII 
intact
 
Pertinent Results:
Admission Labs:
___ 06:00AM BLOOD WBC-15.7* RBC-5.05 Hgb-14.8 Hct-45.0 
MCV-89 MCH-29.3 MCHC-32.9 RDW-13.5 RDWSD-43.8 Plt ___
___ 06:00AM BLOOD Neuts-89.2* Lymphs-4.5* Monos-4.8* 
Eos-0.1* Baso-0.3 Im ___ AbsNeut-14.03* AbsLymp-0.71* 
AbsMono-0.76 AbsEos-0.01* AbsBaso-0.05
___ 06:00AM BLOOD ___ PTT-30.4 ___
___ 06:00AM BLOOD Glucose-144* UreaN-29* Creat-2.0* Na-142 
K-4.1 Cl-106 HCO3-16* AnGap-24*
___ 06:00AM BLOOD ALT-6 AST-17 AlkPhos-87 TotBili-0.5
___ 06:00AM BLOOD Calcium-8.8 Phos-1.4* Mg-1.5*
___ 06:08AM BLOOD Lactate-2.2*
___ 07:05AM URINE Color-Yellow Appear-Hazy Sp ___
___ 07:05AM URINE Blood-LG Nitrite-POS Protein-30 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-5.5 Leuks-MOD
___ 07:05AM URINE RBC-14* WBC-20* Bacteri-MANY Yeast-NONE 
Epi-<1
___ 07:05AM URINE Hours-RANDOM UreaN-726 Creat-129 Na-82

Other Relevant Labs:
___ 06:00AM BLOOD WBC-15.7* RBC-5.05 Hgb-14.8 Hct-45.0 
MCV-89 MCH-29.3 MCHC-32.9 RDW-13.5 RDWSD-43.8 Plt ___
___ 06:20AM BLOOD WBC-20.7* RBC-4.66 Hgb-13.6* Hct-41.7 
MCV-90 MCH-29.2 MCHC-32.6 RDW-13.6 RDWSD-44.9 Plt ___
___ 06:00AM BLOOD WBC-20.9* RBC-4.27* Hgb-12.5* Hct-37.7* 
MCV-88 MCH-29.3 MCHC-33.2 RDW-13.8 RDWSD-44.8 Plt ___
___ 06:05AM BLOOD WBC-20.1* RBC-4.14* Hgb-12.6* Hct-37.1* 
MCV-90 MCH-30.4 MCHC-34.0 RDW-13.7 RDWSD-45.1 Plt ___
___ 07:20AM BLOOD WBC-14.2* RBC-4.11* Hgb-12.2* Hct-36.7* 
MCV-89 MCH-29.7 MCHC-33.2 RDW-14.1 RDWSD-45.9 Plt ___
___ 06:05AM BLOOD VitB12-749
___ 06:00AM BLOOD %HbA1c-5.8 eAG-120
___ 06:05AM BLOOD TSH-1.2
___ 07:34AM BLOOD Lactate-1.4

Discharge Labs:
___ 07:20AM BLOOD WBC-14.2* RBC-4.11* Hgb-12.2* Hct-36.7* 
MCV-89 MCH-29.7 MCHC-33.2 RDW-14.1 RDWSD-45.9 Plt ___
___ 07:20AM BLOOD Neuts-82.7* Lymphs-10.5* Monos-5.1 
Eos-0.8* Baso-0.4 Im ___ AbsNeut-11.70* AbsLymp-1.49 
AbsMono-0.72 AbsEos-0.12 AbsBaso-0.06
___ 06:05AM BLOOD ___ PTT-30.7 ___
___ 07:20AM BLOOD Glucose-104* UreaN-22* Creat-1.2 Na-142 
K-3.6 Cl-114* HCO3-19* AnGap-13
___ 06:05AM BLOOD ALT-21 AST-34 AlkPhos-98 TotBili-0.4
___ 07:20AM BLOOD Calcium-7.9* Phos-2.4* Mg-1.5*

Micro:
DRAWN ___
 Blood Culture, Routine (Final ___: 
      KLEBSIELLA OXYTOCA.    FINAL SENSITIVITIES. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             KLEBSIELLA OXYTOCA
                             |   
AMPICILLIN/SULBACTAM--     8 S
CEFAZOLIN-------------     8 R
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CIPROFLOXACIN---------<=0.25 S
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----   <=1 S

URINE CULTURE ___ (Final ___: 
      KLEBSIELLA OXYTOCA.    >100,000 ORGANISMS/ML.. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             KLEBSIELLA OXYTOCA
                             |   
AMPICILLIN/SULBACTAM--    16 I
CEFAZOLIN-------------  =>64 R
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CIPROFLOXACIN---------<=0.25 S
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
NITROFURANTOIN--------  <=16 S
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----   <=1 S

BCX ___: NGTD

___ 8:50 am STOOL     CONSISTENCY: NOT APPLICABLE
      Source: Stool. 

                            **FINAL REPORT ___

   C. difficile DNA amplification assay (Final ___: 
      Negative for toxigenic C. difficile by the Illumigene DNA
      amplification assay. 
           (Reference Range-Negative). 

Imaging:
EKG ___: Baseline artifact. Sinus rhythm at the upper limits 
of normal rate with atrial premature beats. RSR' pattern in lead 
V1. Early R wave progression. ST-T wave abnormalities. Compared 
to the previous tracing of ___ the rate is now faster. 
Otherwise, unchanged. 

CTH ___:
FINDINGS:  
No evidence of acute infarction, hemorrhage, edema, or mass 
effect. 
Periventricular, subcortical, and deep white matter 
hypodensities are 
nonspecific, likely sequelae of chronic small vessel ischemic 
disease, many of which appears to have been present on the MR 
from ___.  Left basal ganglia hypodensity reflects old infarct 
from ___.  The ventricles and sulci are normal in size and 
configuration for the patient's age.  Internal carotid and 
vertebral artery calcifications are extensive bilaterally. 
  
No evidence of fracture.  Polypoid mucosal thickening of the 
left maxillary sinus is moderate.  Mucosal thickening in the 
partially imaged right maxillary sinus is mild.  Remaining 
partially imaged paranasal sinuses are essentially clear.  The 
mastoid air cells and middle ear cavities are clear.  The  
visualized portion of the orbits are unremarkable other than 
bilateral lens replacements. 
  
IMPRESSION:  
1.  No hemorrhage or fracture. 
2.  Probable sequelae of chronic small vessel ischemic disease. 
3.  Old left basal ganglia infarct. 
4.  Paranasal sinus disease as above. 

CTCS ___:
FINDINGS:  
No acute fracture of the cervical spine.  Multilevel 
degenerative changes are extensive and have progressed since 
___.  Overall alignment of the cervical spine appear similar to 
the exam in ___ with mild anterolisthesis of C2 on C3 and C3 on 
C4.  Asymmetric widening of the anterior intervertebral disc 
space at C6-C7 is also overall unchanged.  Prominent anterior 
osteophytes at C5-C6 are again seen.  There is uncal vertebral 
facet hypertrophy at multiple levels narrowing the neural 
foramina.  Neural foraminal narrowing is pronounced at C5-C6 on 
the right and C6-C7 on the left. A broad-based disc bulge at 
C2-C3 narrows the anterior spinal canal but does not touch the 
spinal cord.  A broad-based disc bulge at pretty much all the 
other levels inferiorly indent the anterior spinal cord. No 
prevertebral soft tissue swelling.  No suspicious lytic or 
sclerotic osseous lesion concerning for malignancy are 
infection. 
IMPRESSION:  
1.  No acute cervical spine fracture. 
2.  Severe multi-level degenerative changes, progressed since 
___. Multiple levels of neural foraminal narrowing and spinal 
canal narrowing as above. 

CXR ___:
FINDINGS:  
No focal consolidation, effusion, edema, or pneumothorax.  The 
heart is mildly enlarged.  Coronary bypass stents is visualized. 
 Aortic knob calcifications are mild. 
IMPRESSION:  
No acute intrathoracic process. Mild cardiomegaly. 

Renal US ___:
FINDINGS:  
The right kidney measures 11.2 cm. The left kidney measures 13.3 
cm.  A 5 mm right upper pole renal stone is new from the prior 
study.  No additional stones are seen in either kidney.  The 
right renal cortex is mildly heterogeneously echogenic.  A left 
peripelvic renal cyst is unchanged from prior studies.  Mild 
apparent fullness of the central collecting system may due to 
the peripelvic renal cyst or separate mild dilatation of a 
central calyx, stable from ___. 
  
The bladder is moderately well distended and normal in 
appearance. 
  
IMPRESSION: 
1. Mild heterogeneous echogenicity of the right renal cortex is 
nonspecific but consistent with medical renal disease. 
2. 5 mm nonobstructing right upper pole renal stone. 
3. Apparent fullness of the central left collecting system may 
be due to a 
peripelvic renal cyst or mild hydronephrosis, overall unchanged 
from CT of 
___. 
  
MR ___ ___:
FINDINGS:  
  
There are chronic lacunar infarcts in the posterior limb of the 
left internal capsule and left corona radiata.  A chronic micro 
hemorrhage is noted in the right occipital lobe.  There is no 
evidence of acute hemorrhage, edema, masses, mass effect, 
midline shift or acute infarction.   The ventricles and sulci 
are normal in caliber and configuration.  Scattered foci of 
T2/FLAIR hyperintensities in the periventricular, subcortical, 
and deep white matter are nonspecific, but may represent the 
sequela of chronic small vessel ischemic disease. 
  
The left maxillary sinus contains a small mucous retention cyst. 
 The mastoid air cells are clear.  The patient is status post 
bilateral cataract surgery. 
  
The major intracranial flow voids are preserved. 
  
IMPRESSION: 
1. No acute infarction or intracranial abnormality. 
2. Chronic lacunar infarctions in the left posterior limb of the 
internal 
capsule and left corona radiata. 

 
Brief Hospital Course:
___ with PMHx of CAD, diverticulosis, DM2, HLD, Bell's palsy, 
h/o
L choroidal CVA who pw weakness and AMS. Found to have UTI, GNR
bacteremia and ___.  

# Resolved Severe Sepsis; Klebsiella UTI/Bacteremia:
On admission, pt with fever, tachycardia, leukocytosis with ___, 
UTI on UA. Ceftriaxone initiated and IVF started but pt 
broadened to Cefepime on ___. sp Cefepime (d1 = ___. Pt 
reports sp prostatectomy so no concern for prostate abscess. Pt 
narrowed to Cipro on ___ with plan to complete a total 14d 
course since negative BCx ___ - ___. 

# ___:
Likely pre-renal in setting of sepsis and infection, in addition 
to concurrent medications. Renal US without new hydronephrosis. 
Cr 2->2.9-->1.2. Pt received IVF with improvement in Cr.  

# Acute on chronic encephalopathy; Probable Dementia
Per wife, baseline is minimally verbal, but active. He was 
disheveled and EMS reportedly found his home is disrepair.  The 
chronicity of this decline is unclear. Per family, pt continued 
to be slightly below baseline. Pt was AAOx2 during admission. 
MRI brain showed old infarct. B12 and TSH were wnl. Pt's mental 
status improved and he was appropriately conversant prior to 
discharge.   

# Thrombocytopenia:
Possibly med-related vs. infection-related. No known prior 
exposure to heparin so suspicion for HIT was low. 4T score is 3 
(low prob).

#CAD, native: Continued Plavix, Metoprolol, Statin. Held ACEi, 
given ___. 

# DM2 with nephropathy: Held metformin. ISS written. Followed by 
___ Endocrinology service during admission. 

# HTN/HL: Continued statin, metoprolol, held ACEi

# Prior CVA: Continued ASA/Plavix.

# Prostate CA: sp radical prostatectomy

Transitional Issues:
- Please note, ACEi and Metformin on hold; given recent ___
- Repeat CBC at follow-up; further eval of thrombocytopenia
- Please ensure home safety eval
- Please repeat chem panel at ___ to ensure continued resolution 
___
- Ensure follow-up with Neurology for eval of dementia
- Consider ___ renal imaging
- Please continue eval  of chronic dizziness; consider trial of 
epley maneuver
- Please repeat Magnesium level at follow-up
 
Medications on Admission:
ATORVASTATIN - atorvastatin 80 mg tablet. TAKE 1 TABLET BY MOUTH
DAILY
CLOPIDOGREL - clopidogrel 75 mg tablet. TAKE 1 TABLET BY MOUTH
ONCE DAILY
DARIFENACIN [ENABLEX] - Enablex 7.5 mg tablet,extended release.
TAKE 1 TABLET(S) BY MOUTH ONCE A DAY IN THE EVENING FOR URINARY
INCONTINENCE
DULOXETINE [CYMBALTA] - Cymbalta 20 mg capsule,delayed release. 
2
Capsule(s) by mouth twice a day
GEMFIBROZIL - gemfibrozil 600 mg tablet. TAKE 1 TABLET BY MOUTH
TWICE A DAY
LIDOCAINE [LIDODERM] - Lidoderm 5 % (700 mg/patch) adhesive
patch. apply once a day for low back pain, hip pain
LISINOPRIL - lisinopril 40 mg tablet. TAKE 1 TABLET EVERY DAY
METFORMIN - metformin 850 mg tablet. 2 tablet(s) by mouth with
breakfast and 1 tablet with supper -  (Dose adjustment - no new
Rx)
METOPROLOL SUCCINATE - metoprolol succinate ER 25 mg
tablet,extended release 24 hr. TAKE 1 TABLET BY MOUTH DAILY
MULTIVITAMINS - MULTIVITAMINS  . TAKE ONE PER DAY
NITROGLYCERIN - nitroglycerin 0.4 mg sublingual tablet. 1
Tablet(s) sublingually as directed as needed for chest pain can
repeat every 5minutes three times, call ___ if chest pain not
resolved
RANITIDINE HCL - ranitidine 150 mg tablet. TAKE 1 TABLET BY 
MOUTH
TWICE A DAY AS NEEDED FOR GERD
 
Medications - OTC
ASPIRIN - aspirin 81 mg tablet,delayed release. tablet(s) by
mouth once a day with food - heart protection -  (OTC)

 
Discharge Medications:
1. Aspirin 81 mg PO DAILY 
2. Atorvastatin 80 mg PO QPM 
3. Clopidogrel 75 mg PO DAILY 
4. DULoxetine 40 mg PO BID 
5. Lidocaine 5% Patch 1 PTCH TD QAM 
6. Metoprolol Succinate XL 25 mg PO DAILY 
7. Nitroglycerin SL 0.3 mg SL Q5MIN:PRN chest pain 
8. Ciprofloxacin HCl 750 mg PO Q12H 
until ___ 
RX *ciprofloxacin HCl 750 mg 1 tablet(s) by mouth twice a day 
Disp #*22 Tablet Refills:*0
9. Insulin SC 
      Sliding Scale

Fingerstick QACHS
Insulin SC Sliding Scale using HUM Insulin
10. Gemfibrozil 600 mg PO BID 
11. darifenacin 7.5 mg oral QPM 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Sepsis due to UTI
ARF
acute on chronic encephalopathy
Dementia
CAD
DM2
Prior CVA

 
Discharge Condition:
Mental Status: Confused - always.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure to participate in your care at ___. You were 
admitted with UTI and kidney injury causing weakness and 
lethargy.  It is very important that you complete the 
antibiotics recommended and follow up closely with your PCP. 

Best Regards,
Your ___ Medicine Team
 
Followup Instructions:
___